US04569690
Cyclisation of 2-chloroethyl 3-fluoro-N-hydroxybenzenecarboximidothioate was accomplished as described in Example 2 using sodium (4.6 g) in ethanol (300 ml) to give 3-(3-fluorophenyl)-5,6-dihydro-1,4,2-oxathiazine, mp 47°-9° C. (Found: C,54.66; H,4.13; N,7.07. C9H8FNOS requires C,54.81; H,4.09; N,7.10).

reactant | 2-chloroethyl 3-fluoro-N-hydroxybenzenecarboximidothioate | FC=1C=C(C=CC1)C(=NO)SCCCl | C9H9ClFNOS
reactant | sodium | 4.6 g | [Na] | Na
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-(3-fluorophenyl)-5,6-dihydro-1,4,2-oxathiazine | FC=1C=C(C=CC1)C1=NOCCS1 | C9H8FNOS
